US07838528B2
b) 8-(cis-Hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-3-methyl-7-(3-methyl-but-2-enyl)-1-(2-oxo-2-phenyl-ethyl)-3,7-dihydro-purine-2,6-dione hydrochloride
This compound was obtained by dissolving 50 mg of tert-butyl 5-[3-methyl-7-(3-methyl-but-2-enyl)-2,6-dioxo-1-(2-oxo-2-phenyl-ethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate in 5 ml of ethyl acetate, treating the solution with excess hydrogen chloride solution in ethyl acetate, concentrating in a rotary evaporator and stirring with diisopropyl ether.

reactant | tert-butyl 5-[3-methyl-7-(3-methyl-but-2-enyl)-2,6-dioxo-1-(2-oxo-2-phenyl-ethyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]-hexahydropyrrolo[3,4-c]pyrrole-2-carboxylate | 50 mg | CN1C(N(C(C=2N(C(=NC12)N1CC2C(C1)CN(C2)C(=O)OC(C)(C)C)CC=C(C)C)=O)CC(C2=CC=CC=C2)=O)=O | C30H38N6O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 8-(cis-Hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-3-methyl-7-(3-methyl-but-2-enyl)-1-(2-oxo-2-phenyl-ethyl)-3,7-dihydro-purine-2,6-dione hydrochloride | Cl.C1N(C[C@@H]2[C@H]1CNC2)C2=NC=1N(C(N(C(C1N2CC=C(C)C)=O)CC(C2=CC=CC=C2)=O)=O)C | InChI=1S/C25H30N6O3.ClH/c1-16(2)9-10-30-21-22(27-24(30)29-13-18-11-26-12-19(18)14-29)28(3)25(34)31(23(21)33)15-20(32)17-7-5-4-6-8-17;/h4-9,18-19,26H,10-15H2,1-3H3;1H/t18-,19+;
